datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=CC(C)=C([N:12]2[C:11](=[CH2:10])[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N+:12]2=[C:11]([CH2:10][C:20]([C:31]3=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]3)[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1 10,11=10,20;12=11,12"
"C1C[S:31][CH+:20][S:41]C1.CC1=CC(C)=C([N:12]2[C:11](=[CH2:10])[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1>>CC1=CC(C)=C([N+:12]2=[C:11]([CH2:10][CH:20]3[S:31]CCC[S:41]3)[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1 10,11=10,20;12=11,12"
"CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23].C[C:72]1=[CH:71][N:10]=[C:11]([O-:12])[NH:84][C:73]1=[O:74]>>CC[O:33][C:22](=[CH:21][CH:20]([N:10]1[C:11](=[O:12])[NH:84][C:73](=[O:74])[C:72](C)=[CH:71]1)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1C[O:72][C:61](=[O:62])[N-:10]1.CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2CC[O:72][C:61]2=[O:62])[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1.CC[O:72]/[C:11](=[C:10](\[N+:61]#[N:62])[C:81](=[O:82])[O:92]CC)[O-:12]>>CC[O:72][C:11]([C:10]([CH:20]([CH:21]=[C:22](C1=[N+](C2=C(C)C=C(C)C=C2C)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([N+:61]#[N:62])[C:81](=[O:82])[O:92]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)([CH2:10]C2=CC=CC=C2)[O:12]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10]C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([N:21](C)C)[C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)S1 10,11=10,20;12=11,12;20,21=21"
"C[C:11](CC1=CC=CC=C1)=[CH2:10].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].C[C+:11](CC1=CC=CC=C1)[CH2:10][S:20]C(F)(F)F 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[C:10](\OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12].C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:62][C:11]([C:10](OC)([CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:20]1=[CH:21][C:22](=[O:23])CCC1.[H][N:10]=[C:11](C(F)(F)F)[O-:12]>>[H][N:10]([C:11](C(F)(F)F)=[O:12])[C:20]1(C)CCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1.[CH:10](=[N+:11]=[N-:12])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>[CH:10]([N+:11]#[N:12])([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.C[CH:11]=[CH2:10]>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([CH2:10][CH+:11]C)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;20,21=21,22;22,23=23"
"C[N:82]1[C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>C[O:21][CH:20]([C:10]1([I+:61]C2=CC=CC=C2)[C:11](=[O:12])[N:82](C)[C:83](=[O:84])[N:102](C)[C:91]1=[O:92])[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1.C[CH:10]=[C:11](C)C>>CC1=CC=C([S:32]([N-:21][C:20]([CH:10](C)[C+:11](C)C)=[O:52])(=[O:33])=[O:43])C=C1 10,11=10,20;20,21=21"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.C1=CC=C([C:61]([O-:10])=[O:62])C=C1>>C1=CC=C([C:61]([O:10][CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]23C4C5C6C2[Fe:42]56432789C3C2C7C8C39)=[O:62])C=C1 10=20
